US09145415B2
To tert-butyl ((6-((trimethylsilyl)ethynyl)-1H-benzo[d]imidazol-2-yl)methyl)carbamate (G5, 82 mg) and potassium carbonate (99 mg), methanol (1 mL) was added at room temperature, and the mixture was stirred at the same temperature for 1 hour. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (eluent, 80 to 30% hexane in ethyl acetate) to obtain tert-butyl ((6-ethynyl-1H-benzo[d]imidazol-2-yl)methyl)carbamate (G6, 62 mg).

reactant | tert-butyl ((6-((trimethylsilyl)ethynyl)-1H-benzo[d]imidazol-2-yl)methyl)carbamate | C[Si](C)(C)C#CC=1C=CC2=C(NC(=N2)CNC(OC(C)(C)C)=O)C1 | C18H25N3O2Si
reactant | potassium carbonate | 99 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 1 mL | CO | CH4O
product | tert-butyl ((6-ethynyl-1H-benzo[d]imidazol-2-yl)methyl)carbamate | 62 mg | C(#C)C=1C=CC2=C(NC(=N2)CNC(OC(C)(C)C)=O)C1 | C15H17N3O2
